US06528525B1
Ethyl 3-[4-[2-(biphenyl-4-carbonylamino)ethoxy]phenyl]-2-phenoxypropionate (ethyl ester of exemplification No. 6-15 compound)
In a similar manner to that described in Example 5, a reaction was carried out using ethyl 3-[4-(2-aminoethoxy)phenyl]-2-phenoxypropionate (666 mg), which is the product of Reference example 4, biphenyl-4-carboxylic acid (400 mg) and carbonyldiimidazole (393 mg) and the reaction mixture was treated to give the title compound (280 mg) as a white powder.

reactant | ethyl 3-[4-(2-aminoethoxy)phenyl]-2-phenoxypropionate | 666 mg | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C19H23NO4
reactant | biphenyl-4-carboxylic acid | 400 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | carbonyldiimidazole | 393 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | Ethyl 3-[4-[2-(biphenyl-4-carbonylamino)ethoxy]phenyl]-2-phenoxypropionate | 280 mg | C1(=CC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1)C1=CC=CC=C1 | C32H31NO5
